US09353075B2
Step 2. Preparation of (2S,3R)-2-(5-phenylpentoxycarbonylamino)-3-hydroxy-butanoic acid
To a stirred mixture of L-threonine (0.150 g, 1.25 mmol) and NaHCO3 (0.158 g, 1.89 mmol) in H2O (3.5 mL), the crude mixture containing 5-phenyl-pentyl-2-pyridyl-carbonate and 5-phenyl-pentyl-2-oxopyridine 1-carboxylate (0.538 g, 1.89 mmol) in THF (3.5 mL) was added. After 15 h at rt, the crude mixture was rotary evaporated to remove the organics and subsequently extracted with Et2O (3×5 mL). The aqueous phase was acidified with 2.0 M HCl solution to pH 2-3 and subsequently extracted with EtOAc (3×10 mL). The organic fraction was dried over Na2SO4, filtered and concentrated to dryness to afford the title compound (0.33 g, 88%) as transparent oil, which was used in the next step without further purification. MS (ESI) m/z: 332 [M−Na]+, 327 [M−NH4]+; (ESI) m/z: 308 [M−H]−. 1H NMR (DMSO-d6) δ 1.08 (d, J=6.3 Hz, 3H), 1.29-1.39 (m, 2H), 1.53-1.63 (m, 4H), 2.57 (t, J=7.7 Hz, 2H), 3.89-3.99 (m, 3H), 4.01-4.11 (m, 1H), 6.67 (d, J=9.0 Hz, 1H), 7.13-7.30 (m, 5H), 12.33 (s, 1H).

reactant | L-threonine | 1.25 mmol, 0.150 g | N[C@@H]([C@H](O)C)C(=O)O | C4H9NO3
reactant | NaHCO3 | 1.89 mmol, 0.158 g | C(=O)(O)[O-].[Na+]
reactant | 5-phenyl-pentyl-2-oxopyridine 1-carboxylate | 1.89 mmol, 0.538 g | C1(=CC=CC=C1)CCCCCC=1C(N(C=CC1)C(=O)[O-])=O
solvent | H2O | 3.5 mL | O | H2O
solvent | THF | 3.5 mL | C1CCOC1 | C4H8O
product | (2S,3R)-2-(5-phenylpentoxycarbonylamino)-3-hydroxy-butanoic acid | 0.33 g, 88% | C1(=CC=CC=C1)CCCCCOC(=O)N[C@H](C(=O)O)[C@@H](C)O | C16H23NO5
